US04324796
(e) p-Toluenesulfonic acid [3-(3-chlorophenyl)propyl] ester
86 ml of pyridine are added dropwise to 90 g of 3-(3-chlorophenyl)propan-1-ol and 124 g of p-toluenesulfonic acid chloride in 300 ml of chloroform at 0° C. When the addition is complete, the mixture is stirred at room temperature for 3 hours, and the solution is poured into a mixture of 400 ml of water and 120 ml of concentrated hydrochloric acid. The organic phase is separated off, washed 3 times with water, dried over sodium sulfate and concentrated to a viscous oil in vacuo.

reactant | pyridine | 86 ml | N1=CC=CC=C1 | C5H5N
reactant | 3-(3-chlorophenyl)propan-1-ol | 90 g | ClC=1C=C(C=CC1)CCCO | C9H11ClO
reactant | p-toluenesulfonic acid chloride | 124 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | 120 ml | Cl | ClH
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 400 ml | O | H2O
product | p-Toluenesulfonic acid [3-(3-chlorophenyl)propyl] ester | ClC=1C=C(C=CC1)CCCOS(=O)(=O)C1=CC=C(C=C1)C | C16H17ClO3S
